US04409018
2-(4-Chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-methylthio-1H-isoindol-1-one
In 10 ml of acetone was dissolved 1.5 g of 2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-mercapto-1H-isoindol-1-one, and 1.5 g of methyl iodide and 1.3 g of potassium carbonate were added to the solution, followed by stirring at 40° to 50° C. for 5 hours. After cooling, the insoluble matter was filtered out, and the filtrate was concentrated under reduced pressure. The residual, oily substance was purified by means of column chromatography with the use of silica gel (developing solvent of acetone-hexane), thereby producing 1.4 g (yield of 90%) of the subject compound in white crystals, m.p. 97°-98° C.

reactant | 2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-mercapto-1H-isoindol-1-one | 1.5 g | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1S)=O)F | C14H13ClFNOS
reactant | methyl iodide | 1.5 g | CI | CH3I
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-(4-Chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-methylthio-1H-isoindol-1-one | 1.4 g, yield of 90% | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1SC)=O)F | C15H15ClFNOS
